US07390809B2
Step C: 8-Methyl-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine, hydrochloride
To a solution of 7-N-(tert-butoxycarbonyl)-8-methyl-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine (2.40 g, 7.83 mmol) in 40 mL of methanol was added 50 mL of methanol saturated with hydrogen chloride. The reaction was stirred at ambient temperature for 1 h. Concentration in vacuo gave the title compound as an off-white solid.

reactant | 7-N-(tert-butoxycarbonyl)-8-methyl-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 7.83 mmol, 2.40 g | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)C | C12H17F3N4O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 8-Methyl-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine, hydrochloride | Cl.CC1C=2N(CCN1)N=C(N2)C(F)(F)F | InChI=1S/C7H9F3N4.ClH/c1-4-5-12-6(7(8,9)10)13-14(5)3-2-11-4;/h4,11H,2-3H2,1H3;1H
